US05130428
2-Amino-4-methoxy-6-trifluoromethyl-1,3,5-triazine
2.7 g (18 mmol) of 1,8-diazabicyclo[5.4.0]-7-undecene were added at 22° C. to a solution of 5 g (18 mmol) of 2-amino-4-trichloromethyl-6-trifluoromethyl-1,3,5-triazine in 25 ml of methanol. The mixture was refluxed for 1 hour and, after cooling to 20° C., made weakly acid (pH=6) with 2 normal aqueous hydrochloric acid. Then most of the solvent was removed under reduced pressure, after which the solid was isolated in a conventional manner.

reactant | 1,8-diazabicyclo[5.4.0]-7-undecene | 18 mmol, 2.7 g | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | 2-amino-4-trichloromethyl-6-trifluoromethyl-1,3,5-triazine | 18 mmol, 5 g | NC1=NC(=NC(=N1)C(Cl)(Cl)Cl)C(F)(F)F | C5H2Cl3F3N4
reactant | hydrochloric acid | Cl | ClH
reactant | methanol | 25 ml | CO | CH4O
product | 2-Amino-4-methoxy-6-trifluoromethyl-1,3,5-triazine | NC1=NC(=NC(=N1)OC)C(F)(F)F | C5H5F3N4O
